2118-09-25 10:38:00 Physician Attending Progress Note
Chief Complaint: fall, SDH, fibular fracture
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   splinted fib fracture
   Repeat head CT stable
   Plan for last Ct to confirm stable this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2118-9-24**] 10:46 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2118-9-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-25**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 79 (76 - 88) bpm
   BP: 112/49(64) {95/39(52) - 147/65(84)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,600 mL
                                                                    475 mL
   PO:
             450 mL
   TF:
   IVF:
                                                                  1,600 mL
                                                                     25 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    650 mL
   Urine:
                                                                  1,370 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -195 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Gen: alert NAD
   CV: RR
   Chest: decreased BS left base with dullness to percussion
   Abd: soft
   Ext: right foot swelling
   Labs / Radiology
   11.0 g/dL
   170 K/uL
   104 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.5 mEq/L
   6 mg/dL
   103 mEq/L
   137 mEq/L
   32.6 %
   4.8 K/uL
        [image002.jpg]
                             [**2118-9-24**]  04:33 PM
                             [**2118-9-25**]  12:10 AM
                             [**2118-9-25**]  03:22 AM
   WBC
   4.8
   Hct
   32.6
   Plt
   170
   Cr
   0.6
   TropT
   0.01
   <0.01
   Glucose
   104
   Other labs: CK / CKMB / Troponin-T:503/10/<0.01, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 FRACTURE, OTHER
 NAUSEA / VOMITING
 SUBDURAL HEMORRHAGE (SDH)
   SDH: appreciate NSurg involvement, SHD has been radiographically stable
   - last CT this AM if stable
   Fall: syncope versus polysubstance
 no events on telemetry. Still
   unclear if cardiac neuro or mechical event. Ongoing workup but pe
   raised as a new possibility today
   New O2 requirement
 looks like she has underlying emphysema but new
   LLL infiltrate
 could be aspiration (though contralat) but also worry
   about PE given new O2 req new eff and O2 requirement and unexplained
   syncope. Also she complains of rib pain so could be occult rib Fx and
   pulm contusion/hemothorax. Get CTA
   HTN: home meds
   ETOH: CIWA- not needed.
   ICU Care
   Nutrition: advance
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-9-24**] 10:20 AM
   20 Gauge - [**2118-9-24**] 10:30 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  po diet
   Communication:  with pt
   [**Name (NI) 36**] status: Full code
   Disposition :Transfer to floor if head CT OK

2118-09-25 15:51:00 Physician Resident Progress Note
Chief Complaint: Neurosurg - continue to treat conservatively, repeat
   head CT at 9pm - head CT stable
   Displaced R fibula fracture - ortho consulted, posterior splint placed
   CE negative, CK downtrending
   Mental status - stable
   24 Hour Events:
 CALLED OUT
   no o/n events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2118-9-24**] 10:46 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2118-9-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-25**] 03:51 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 78 (69 - 82) bpm
   BP: 118/50(67) {95/39(52) - 132/56(74)} mmHg
   RR: 20 (15 - 24) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.7 kg (admission): 78 kg
   Height: 67 Inch
             Total In:
                                                                  1,600 mL
                                                                  1,311 mL
   PO:
             570 mL
   TF:
   IVF:
                                                                  1,600 mL
                                                                    741 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                  1,265 mL
   Urine:
                                                                  1,370 mL
                                                                  1,265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -195 mL
                                                                     46 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   170 K/uL
   11.0 g/dL
   104 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.5 mEq/L
   6 mg/dL
   103 mEq/L
   137 mEq/L
   32.6 %
   4.8 K/uL
        [image002.jpg]
                             [**2118-9-24**]  04:33 PM
                             [**2118-9-25**]  12:10 AM
                             [**2118-9-25**]  03:22 AM
   WBC
   4.8
   Hct
   32.6
   Plt
   170
   Cr
   0.6
   TropT
   0.01
   <0.01
   Glucose
   104
   Other labs: CK / CKMB / Troponin-T:503/10/<0.01, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Imaging: ? LL effusion concerning for small p.e
   Microbiology: MRSA screen, blood cx pending x2
   Assessment and Plan
 FRACTURE, OTHER
 NAUSEA / VOMITING
 SUBDURAL HEMORRHAGE (SDH)
   Imaging: CTH ([**9-24**]):
   Assessment and Plan
   Ms. [**Known lastname 1936**] is a 74 year old female admitted s/p fall with an epidural
   hematoma and questionable syncopal event.
   .
   # Epidural hematoma: Appreciate neurosurgery recs. Per neurosurgery, no
   surgical or other intervention at this time, and will plan for
   conservative management. Persistent n/v was concerning for elevated ICP
   with plan by neuro for conservative management/ close monitoring. Pt
   has not had further n/v since y/d. Advanced to full liquids
   - Q4H neuro checks.
   - Zofran prn
   .
   # Fall: Unclear at this time if this was a syncopal event,
   dysequilibirium, or mechanical fall.  The patient does have a a murmur
   on exam that is being followed by a cardiologist at [**Hospital1 1200**]
   consistent with AS, but she denies any history of syncope, dyspnea, or
   exertional angina.  Low suspicion for ACS at this time. Patient also
   reports having had 2 glasses of wine last night, and she had
   barbituates on tox screen that are likely from primidone.  Given new O2
   requirement and possible syncopal episode + CXR finding of LLL
   effusion, there is some concern for a PE.
   Cardiac enzyms -ve, no acs resulting in fall.
   - per neuro repeat head CT. If negative, no further
   imaging,intervention.
   -CT Angiogram.
   - TTE
   - Obtain OSH cardiology recs.
   - Hold ASA, continue BB as above.
   .
   # Hypoxia: Most likely represents aspiration event at this time. Will
   hold off on an antibiotics, but if patient worsens clinically or
   develops a fever will start amp/sulbactam.  As above, PE is on the
   differential, but will hold off for now on work-up.
   - Wean supplemental O2 as tolerated with goal SO2>92%.
   .
   # HTN: Continue pindolol and lisinopril
   .
   # CV: TTE, rule out ACS, and obtain OSH records as above.
   - Continue ACE-I and BB as above
   .
   # EtOH: Valium per CIWA
   .
   # Tremors: Hold primidone for now.
   .
   # Anxiety: Continue citalopram
   .
   # Gout: Hold indomethacin.
   .
   FEN: NPO given nausea, replete as necessary. MIVF
   PPx: SCDs, PPI
   Access: PIV
   Code: Full
   Communciation: Self
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-9-24**] 10:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-9-24**] 10:20 AM
   20 Gauge - [**2118-9-24**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-09-26 07:11:00 Physician Resident Progress Note
Chief Complaint: Ms. [**Known lastname 1936**] is a 74 year old female admitted s/p fall
   with an epidural hematoma and questionable syncopal event.
   24 Hour Events:
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2118-9-24**] 10:46 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2118-9-26**] 04:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-26**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 76 (69 - 86) bpm
   BP: 125/45(66) {101/23(46) - 138/90(102)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.7 kg (admission): 78 kg
   Height: 67 Inch
             Total In:
                                                                  1,921 mL
                                                                     70 mL
   PO:
                                                                    810 mL
             TF:
   IVF:
                                                                  1,111 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  2,455 mL
                                                                    940 mL
   Urine:
                                                                  2,455 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -534 mL
                                                                   -870 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 3L
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   Alert, interactive, PERRLA
   RRR II/VI murmur
   CTAB on anterior exam
   Soft, nontender, nondistended, pos BS
   Warm ext, no pain in legs, normal distal pulses, normal sensation
   Labs / Radiology
   170 K/uL
   10.6 g/dL
   118 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.2 mEq/L
   3 mg/dL
   102 mEq/L
   139 mEq/L
   31.6 %
   4.9 K/uL
        [image002.jpg]
                             [**2118-9-24**]  04:33 PM
                             [**2118-9-25**]  12:10 AM
                             [**2118-9-25**]  03:22 AM
                             [**2118-9-26**]  04:09 AM
   WBC
   4.8
   4.9
   Hct
   32.6
   31.6
   Plt
   170
   170
   Cr
   0.6
   0.6
   TropT
   0.01
   <0.01
   Glucose
   104
   118
   Other labs: PT / PTT / INR:12.2/26.1/1.0, CK / CKMB /
   Troponin-T:503/10/<0.01, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Imaging: CTA
   IMPRESSION:
   1. No evidence of pulmonary embolism.
   2. Small bilateral pleural effusions with associated atelectasis.
   3. Increased reticulations throughout the lung, may be chronic.
   However, mild
   edema cannot be entirely excluded.
   CT head
   IMPRESSION:
   No significant change in extra-axial hematoma overlying the right
   parietal and temporal convexity from [**2118-9-24**]. No new hemorrhage
   or
   significant mass effect.
   Microbiology: Blood cx pending
   Assessment and Plan
   Ms. [**Known lastname 1936**] is a 74 year old female admitted s/p fall with an epidural
   hematoma and questionable syncopal event.
   .
   # Epidural hematoma: Appreciate neurosurgery recs. Per neurosurgery, no
   surgical or other intervention at this time, and will plan for
   conservative management. Persistent n/v was concerning for elevated ICP
   with plan by neuro for conservative management/ close monitoring. Pt
   has not had further n/v since y/d. Advanced to full liquids. CT head x4
   showed hematoma stable.
   - Q4H neuro checks.
   - Zofran prn
   .
   # Fall: Unclear at this time if this was a syncopal event,
   dysequilibirium, or mechanical fall.  The patient does have a a murmur
   on exam that is being followed by a cardiologist at [**Hospital1 1200**]
   consistent with AS, but she denies any history of syncope, dyspnea, or
   exertional angina.  Low suspicion for ACS at this time. Patient also
   reports having had 2 glasses of wine last night, and she had
   barbituates on tox screen that are likely from primidone.  Given new O2
   requirement and possible syncopal episode + CXR finding of LLL
   effusion, there is some concern for a PE. Cardiac enzyms -ve, no acs
   resulting in fall. Neuro wants no further imaging. CTA negative for PE.
   - Obtain OSH cardiology recs.
   - Hold ASA, continue BB as above.
   -Echo ordered
   .
   # Leg fracture
   -air cast boot today
   -PT consult
   -Ortho followed
   .
   # Hypoxia: Most likely represents aspiration event at this time. Will
   hold off on an antibiotics, but if patient worsens clinically or
   develops a fever will start amp/sulbactam. No PE.
   - Wean supplemental O2 as tolerated with goal SO2>92%
   -diurese today, 20mg IV lasix, goal 1-2 L negative
   .
   # HTN: Continue pindolol and lisinopril
   .
   # CV: TTE, rule out ACS, and obtain OSH records as above.
   - Continue ACE-I and BB as above
   .
   # EtOH: Valium per CIWA
   .
   # Tremors: Hold primidone for now.
   .
   # Anxiety: Continue citalopram
   .
   ICU Care
   Nutrition:
   Comments: Full liquids - advance today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2118-9-24**] 10:20 AM
   20 Gauge - [**2118-9-24**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2118-09-26 10:07:00 Physician Attending Progress Note
Chief Complaint: SDH, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   CTA neg for PE
   Head CT stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2118-9-24**] 10:46 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2118-9-26**] 04:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-26**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 77 (70 - 86) bpm
   BP: 115/38(58) {102/23(46) - 138/90(102)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.7 kg (admission): 78 kg
   Height: 67 Inch
             Total In:
                                                                  1,921 mL
                                                                    341 mL
   PO:
                                                                    810 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,111 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  2,455 mL
                                                                  1,270 mL
   Urine:
                                                                  2,455 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -534 mL
                                                                   -929 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   Gen: alert NAD
   CV: RR
   Chest: decreased BS left base with dullness to percussion
   Abd: soft +BS
   Ext: right foot swelling
   Labs / Radiology
   10.6 g/dL
   170 K/uL
   118 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.2 mEq/L
   3 mg/dL
   102 mEq/L
   139 mEq/L
   31.6 %
   4.9 K/uL
        [image002.jpg]
                             [**2118-9-24**]  04:33 PM
                             [**2118-9-25**]  12:10 AM
                             [**2118-9-25**]  03:22 AM
                             [**2118-9-26**]  04:09 AM
   WBC
   4.8
   4.9
   Hct
   32.6
   31.6
   Plt
   170
   170
   Cr
   0.6
   0.6
   TropT
   0.01
   <0.01
   Glucose
   104
   118
   Other labs: PT / PTT / INR:12.2/26.1/1.0, CK / CKMB /
   Troponin-T:503/10/<0.01, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 FRACTURE, OTHER
 NAUSEA / VOMITING
 SUBDURAL HEMORRHAGE (SDH)
   SDH: appreciate NSurg involvement, SHD has been radiographically
   stable. Outpt follow up.
   Fall: syncope versus polysubstance
 no events on telemetry. Still
   unclear if cardiac/ neuro or mechanical event. CTA neg for PE. Echo
   today. Get OSH records re
PACs
   New O2 requirement
 looks like she has underlying emphysema but new
   LLL infiltrate
 could be aspiration (though contralat) pneumonitis,
   mild pulm edema, spliting, rules out for PE. Will try diuresis,
   ambulate and check O2 sats
   HTN: home meds
   ETOH: CIWA- not needed.
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-9-24**] 10:20 AM
   20 Gauge - [**2118-9-24**] 10:30 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  with patient
   Code status: Full code
   Disposition :Transfer to floor